US07399759B2
2-(4-Methyl-1,3-thiazol-2-yl)-4H-1,3-benzothiazin-4-one
4-Methyl-1,3-thiazole-2-carbonitrile (0.27 g, 2.2 mmol) and methyl thiosalicylate (0.75 g, 4.4 mmol) were dissolved in toluene (4 ml), and triethylamine (2.0 ml, 14.3 mmol) was added thereto. The reaction mixture was refluxed for 6 hrs. After cooling, the precipitates were collected by filtration and recrystallized from ethanol to give the titled compound (0.28 g, 49%) as yellow crystals.

reactant | 4-Methyl-1,3-thiazole-2-carbonitrile | 2.2 mmol, 0.27 g | CC=1N=C(SC1)C#N | C5H4N2S
reactant | methyl thiosalicylate | 4.4 mmol, 0.75 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 14.3 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Methyl-1,3-thiazol-2-yl)-4H-1,3-benzothiazin-4-one | 0.28 g, 49% | CC=1N=C(SC1)C=1SC2=C(C(N1)=O)C=CC=C2 | C12H8N2OS2
